US06696472B2
3-[[3-(cyclohexylmethoxy)phenyl][[(3-(1,1,2,2-tetrafluoroethoxy)phenyl]-methyl]amino]-1,1,1-trifluoro-2-propanol
3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl](1,1,1-trifluoro-2-hydroxypropyl)-amino]phenol (100 mg, 0.23 mmol) and bromomethylcyclohexane (42 μL, 0.30 mmol) were dissolved in 2 mL of acetonitrile. Cesium carbonate (144 mg, 0.44 mmol) was added, and the stirred solution was warmed to 50° C. for 48 hours, at which time HPLC analysis indicated that no phenolic starting material remained. The reaction was quenched with water and filtered through pre-wetted celite eluting with ethyl acetate. The solvent was evaporated and the residue was purified by reverse phase HPLC eluting with 10% to 90% acetonitrile in water to afford 55 mg (35%) of the desired ether product as a brown oil, which was greater than 99% pure by reverse phase HPLC analysis. HRMS calcd. for C25H29F7NO3: 524.2036 [M+H]+, found: 524.2028. 1H NMR (CDCl3) δ0.9-1.4 (m, 5H), 1.7-1.9 (m, 6H), 3.6 (m, 3H), 3.9 (dd, 1H), 4.3 (m, 1H), 4.7 (m, 2H), 5.1 (s, 1H), 5.9 (tt, 1H), 6.5 (m, 3H), 7.0-7.4 (m, 5H).

reactant | 3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl](1,1,1-trifluoro-2-hydroxypropyl)-amino]phenol | 0.23 mmol, 100 mg | FC(C(F)F)(OC=1C=C(C=CC1)CN(C=1C=C(C=CC1)O)C(C(F)(F)F)(C)O)F | C18H16F7NO3
reactant | bromomethylcyclohexane | 0.30 mmol, 42 μL | BrCC1CCCCC1 | C7H13Br
reactant | Cesium carbonate | 0.44 mmol, 144 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | [3-(cyclohexylmethoxy)phenyl][[(3-(1,1,2,2-tetrafluoroethoxy)phenyl]-methyl]amino]-1,1,1-trifluoro-2-propanol | C1(CCCCC1)COC=1C=C(C=CC1)CC(C(F)(F)F)(O)NCC1=CC(=CC=C1)OC(C(F)F)(F)F | C25H28F7NO3
